US04705784
Phthalidyl 7-[(Z)-2-methoxyimino-2-(thiazol-4-yl)acetamido]-3-carbamoyloxymethyl-3-cephem-4-carboxylate
Sodium 7-[(Z)-2-methoxyimino-2-(thiazol-4-yl)-acetamido]-3-carbamoyloxymethyl-3-cephem-4-carboxylate (100 mg) was dissolved in dimethylformamide (1 ml). 3-Bromophthalide (69 mg) was added to the solution. After stirring for one hour at room temperature, the reaction mixture was added to a mixture of dil. HCl (10 ml) and ethyl acetate (20 ml). The resulting ethyl acetate layer was separated, washed successively with dil. HCl (10 ml) and saturated aqueous NaCl (10 ml×2), dried over anhydrous magnesium sulfate, and concentrated to dryness under reduced pressure. The residue was dissolved in ethyl acetate (2 ml) and the solution was added dropwise to a petroleum ether-diethyl ether mixture (100 ml) with stirring. Resulting crystals well filtered, and dried under reduced pressure to give the title compound (45 mg).

reactant | Sodium 7-[(Z)-2-methoxyimino-2-(thiazol-4-yl)-acetamido]-3-carbamoyloxymethyl-3-cephem-4-carboxylate | 100 mg | CO\N=C(/C(=O)NC1[C@@H]2N(C(=C(CS2)COC(N)=O)C(=O)[O-])C1=O)\C=1N=CSC1.[Na+]
reactant | 3-Bromophthalide | 69 mg | BrC1OC(=O)C2=CC=CC=C12 | C8H5BrO2
reactant | HCl | 10 ml | Cl | ClH
reactant | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | Phthalidyl 7-[(Z)-2-methoxyimino-2-(thiazol-4-yl)acetamido]-3-carbamoyloxymethyl-3-cephem-4-carboxylate | 45 mg | CO\N=C(/C(=O)NC1[C@@H]2N(C(=C(CS2)COC(N)=O)C(=O)OC2OC(=O)C3=CC=CC=C23)C1=O)\C=1N=CSC1 | C23H19N5O9S2
